* Source-free RL loop decaying from an initial inductor current.
* L1 and R1 in a loop; the inductor starts carrying 1 mA and there is no source, so
* i(t) = 1mA * exp(-t/tau) with tau = L/R = 1mH/10 = 100us, and V(out) = -i*R.
* The counterpart to rc_discharge.net for the *other* reactive element: IC= on an L is
* amps through it, seeded on its own branch-current row rather than across its terminals.
R1 out gnd 10
L1 out gnd 1e-3 IC=1e-3
.tran 1e-6 5e-4
.end
